US06329385B1
4-(4-Chlorophenyl)-1-[3-(10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-ylidene)propyl]piperidin-4-ol
To a solution of 5-(3-bromopropylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (described in JP 48-030064)(200 mg) in DMF (10 ml) were added 4-(4-chlorophenyl)-4-hydroxypiperidine (230 mg), potassium carbonate (360 mg), and potassium iodide (50 mg). The mixture was stirred at 70° C. for 24 hours. Water and ethyl acetate were added to the reaction mixture, the organic layer was separated and washed with saturated aqueous sodium chloride, and dried with magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography eluting with ethyl acetate-hexane (1:1) to give the titled compound (250 mg) . 1H-NMR (CDCl3) δ: 1.65-2.11 (5H,m) , 2.32-3.10 (8H,m), 3.22-3.67(4H,m), 5.87(1H,t), 7.03-7.44(12H,m). MS m/z: 444(M+1).

reactant | 5-(3-bromopropylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 200 mg | BrCCC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C18H17Br
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | 230 mg | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | potassium carbonate | 360 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 50 mg | [I-].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-(4-Chlorophenyl)-1-[3-(10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-ylidene)propyl]piperidin-4-ol | 250 mg | ClC1=CC=C(C=C1)C1(CCN(CC1)CCC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2)O | C29H30ClNO
